US06599886B2
5.0 g of crude clarithromycin, as obtained in a production process, e.g. as conventional, are suspended in 300 ml of water at 25 to 30° C. 7 ml of 1N hydrochloric acid is added to adjust the pH to about 2.5 to 3.0 resulting in a slightly turbid solution of clarithromycin hydrochloride. The solution is filtered, and to the resulting clear solution an aqueous sodium hydroxide solution is added to adjust the pH to about 8.5. Clarithromycin in the form of a free base precipitates and the resulting suspension is filtered. Pure crystalline clarithromycin in the form of a stable hydrate is obtained and dried at 65° C.

reactant | hydrochloric acid | 1N, 7 ml | Cl | ClH
reactant | clarithromycin hydrochloride | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)OC)C)C)O)(C)O.Cl
solvent | water | 300 ml | O | H2O
product | clarithromycin | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)OC)C)C)O)(C)O | C38H69NO13
